US04357335
A mixture of (1R,cis) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-carboxylic acid and thionyl chloride in petroleum ether (b.p.=40° to 70° C.) was refluxed to obtain (1R,cis) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-carboxylic acid chloride which was then reacted with R,S α-hydroxy-6-phenoxy-2-pyridine-acetonitrile in benzene in the presence of pyridine to obtain (R,S)α-cyano-(6-phenoxy-2-pyridyl)-methyl (1R,cis) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-carboxylate.

reactant | (1R,cis) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-carboxylic acid | CC1([C@@H]([C@@H]1C=C1CCCC1)C(=O)O)C | C12H18O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | (1R,cis) 2,2-dimethyl-3-(cyclopentylidenemethyl)-cyclopropane-carboxylic acid chloride | CC1([C@@H]([C@@H]1C=C1CCCC1)C(=O)Cl)C | C12H17ClO
